US06166157
Preparation of 2-Iodotetrafluoropropionitrile (CF3CFICN)
2-Iodotetrafluoropropionamide prepared from Experiment 6 (16.3 g, 0.06 mol) was mixed well with P2O5 (16.3 g, 0.115 mol) in a flask under nitrogen atmosphere. The mixture was heated slowly to 95 to 100° C., a volatile product started to form and was collected in a cold trap (dry ice-acetone bath). The title product was obtained as a slightly pink liquid after purification by distillation, yield 12.5 g (82.5%), b.p. 68-70° C. 19F NMR (188.24 MHz, CDCl3): -78.7 (2 singlets, 3F), -137.9 (q, J =16 Hz, 1F); IR: 2288 cm-1 (C≡N); Mass. Calcd. for [M+ ]: 252.9382; Found: 252.9012.

reactant | 2-Iodotetrafluoropropionamide | IC(C(=O)N)(C(F)(F)F)F | C3H2F4INO
reactant | P2O5 | 0.115 mol, 16.3 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
product | 2-Iodotetrafluoropropionitrile | IC(C#N)(C(F)(F)F)F | C3F4IN
